US09226922B2
A mixture of (3-(benzyloxy)-6-chloro-1-trityl-1H-pyrazolo[4,3-c]pyridin-4-yl)methyl acetate (2.87 g, 5.00 mmol) in DCM (10 ml) and MeOH (50 ml) was evacuated and backfilled 3× with argon, charged with Pd/C (0.532 g, 0.500 mmol), evacuated and backfilled 3× with H2, then stirred at RT under a balloon of H2 for 1 hr. Filtered through celite, eluted with EtOAc and concentrated filtrate in vacuo to obtain (6-chloro-3-oxo-1-trityl-2,3-dihydro-1H-pyrazolo[4,3-c]pyridin-4-yl)methyl acetate. MS: [M+H]+ m/z 484.

reactant | (3-(benzyloxy)-6-chloro-1-trityl-1H-pyrazolo[4,3-c]pyridin-4-yl)methyl acetate | 5.00 mmol, 2.87 g | C(C)(=O)OCC1=NC(=CC2=C1C(=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)OCC2=CC=CC=C2)Cl | C35H28ClN3O3
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
solvent | MeOH | 50 ml | CO | CH4O
catalyst | Pd/C | 0.500 mmol, 0.532 g | [Pd] | Pd
product | (6-chloro-3-oxo-1-trityl-2,3-dihydro-1H-pyrazolo[4,3-c]pyridin-4-yl)methyl acetate | C(C)(=O)OCC1=NC(=CC2=C1C(NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)Cl | C28H22ClN3O3
